US07767690B2
e) [1-(5(S)-tert-Butoxycarbonylamino-6-hydroxy-3,3-dimethyl-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3-yl]-carbamic acid methyl ester
A solution of 3.1 g of 4(S)-[4-(3(R,S)-methoxycarbonylamino-3,4-dihydro-2H-quinolin-1-yl)-2,2-dimethyl-4-oxo-butyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester and 104 mg of p-toluenesulfonic acid monohydrate in 49 ml of methylene chloride under argon is stirred at room temperature for 3.5 hours. More p-toluenesulfonic acid monohydrate (200 mg) is added and the mixture is stirred at room temperature for 1.5 hours The solution is concentrated. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60 F). Rf=0.14 (3:1 EtOAc-heptane); Rt=3.91 (gradient I).

reactant | 4(S)-[4-(3(R,S)-methoxycarbonylamino-3,4-dihydro-2H-quinolin-1-yl)-2,2-dimethyl-4-oxo-butyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.1 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CC(=O)N1CC(CC2=CC=CC=C12)NC(=O)OC)(C)C)(C)C | C27H41N3O6
reactant | p-toluenesulfonic acid monohydrate | 104 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluenesulfonic acid monohydrate | 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 49 ml | C(Cl)Cl | CH2Cl2
product | [1-(5(S)-tert-Butoxycarbonylamino-6-hydroxy-3,3-dimethyl-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3-yl]-carbamic acid methyl ester | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H](CO)NC(=O)OC(C)(C)C)(C)C)=O)=O | C24H37N3O6
